US05631257
1,1-Dimethyl-4-(benzoxazol-2-yl)piperazinium iodide
A 435 mg portion of 2-(4-methyl-1-piperazinyl)benzoxazole was dissolved in 6 ml of DMF. Under cooling with ice, 0.19 ml of methyl iodide was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 1 hour at room temperature. The reaction solution was concentrated under a reduced pressure, and 4 ml of acetone was added to the resulting residue. The precipitate thus formed was collected by filtration, washed with acetone and then dried to obtain 670 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)benzoxazole | CN1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C12H15N3O
reactant | methyl iodide | 0.19 ml | CI | CH3I
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 1,1-Dimethyl-4-(benzoxazol-2-yl)piperazinium iodide | 670 mg | [I-].C[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C13H18N3O.HI/c1-16(2)9-7-15(8-10-16)13-14-11-5-3-4-6-12(11)17-13;/h3-6H,7-10H2,1-2H3;1H/q+1;/p-1
